US07291631B2
A solution of 3-morpholin-4-yl-pyridine-2-carbonitrile (0.500 g, 2.64 mmol) in MeOH (10 mL) was added to a flask charged with Raney Ni (pre-washed with methanol) (0.5 g) in MeOH (10 mL). After saturated with NH3 gas the mixture was shaken under H2 (40 psi) for 3 h. The reaction mixture was then filtered through a celite cake, and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column (500:25:6 CH2Cl2/MeOH/NH4OH), affording C-(3-morpholin-4-yl-pyridin-2-yl)-methylamine as a pale yellow oil (0.480 g, 94%). 1H NMR (CDCl3) δ 2.90-2.93 (m, 4H), 3.85-3.90 (m, 4H), 4.02 (s, 2H), 7.16 (dd, 1H, J=4.5, 8.1 Hz), 7.35 (dd, 1H, J=1.2, 8.1 Hz), 8.33 (dd, 1H, J=1.2, 4.5 Hz).

reactant | 3-morpholin-4-yl-pyridine-2-carbonitrile | 2.64 mmol, 0.500 g | N1(CCOCC1)C=1C(=NC=CC1)C#N | C10H11N3O
reactant | NH3 | N | H3N
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Ni | 0.5 g | [Ni] | Ni
product | C-(3-morpholin-4-yl-pyridin-2-yl)-methylamine | 0.480 g, 94% | N1(CCOCC1)C=1C(=NC=CC1)CN | C10H15N3O
